US07396844B1
3.5 g (19.3 mmol) of D-tyrosine was t-butoxycarbonylated with di-t-butyl dicarbonate to obtain (2R)-2-(t-butoxycarbonyl)amino-3-[4-hydroxyphenyl]propionic acid. A mixed acid anhydride was prepared from this compound, ethyl chloroformate and diisopropylethylamine. After the reduction with sodium borohydride, the title compound was obtained.

reactant | D-tyrosine | 19.3 mmol, 3.5 g | N[C@H](CC1=CC=C(C=C1)O)C(=O)O | C9H11NO3
reactant | di-t-butyl dicarbonate | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
product | (2R)-2-(t-butoxycarbonyl)amino-3-[4-hydroxyphenyl]propionic acid | C(C)(C)(C)OC(=O)N[C@@H](C(=O)O)CC1=CC=C(C=C1)O | C14H19NO5
